US06465467B1
Step 1: tert-Butyl (3R)-3-methyl-4-{3-[2-(3-pyridinyloxy)ethoxy]-2-pyrazinyl}-1-piperazinecarboxylate.
Di-tert-butyl dicarbonate (1.01 g, 4.64 mmol) in dioxane (50 mL) was added to a solution of the fumararate salt of (2R)-methyl-1-{3-[2-(3-pyridinyloxy)ethoxy]-2-pyrazinyl}piperazine* (2.0 g, 4.64 mmol) in a mixture of dioxane/10% aqueous NaHCO3 (1:1; 100 mL). The reaction mixture was stirred overnight at room temperature and extracted with EtOAc (3×100 mL). The organic phase was concentrated and the residue purified by column chromatography on silica using isohexane/EtOAc (3:1 to 1:1) as eluent. This furnished 1.48 g (77%) of the title product as an oil. MS m/z 416 (M+H)+. HRMS m/z calcd for C21H29N5O4 (M)+ 415.2220 found 415.2224.

reactant | Di-tert-butyl dicarbonate | 4.64 mmol, 1.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R)-methyl-1-{3-[2-(3-pyridinyloxy)ethoxy]-2-pyrazinyl}piperazine | C[C@H]1N(CCNC1)C1=NC=CN=C1OCCOC=1C=NC=CC1 | C16H21N5O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (3R)-3-methyl-4-{3-[2-(3-pyridinyloxy)ethoxy]-2-pyrazinyl}-1-piperazinecarboxylate | C[C@@H]1CN(CCN1C1=NC=CN=C1OCCOC=1C=NC=CC1)C(=O)OC(C)(C)C | C21H29N5O4
